US09326987B2
1-{[(1,1-Dimethylethyl)oxy]carbonyl}-3-methyl-1H-pyrazole-4-carboxylic acid
3-Methyl-1H-pyrazole-4-carboxylic acid (200 mg) was dissolved in DMF (5 ml), sodium hydride (60% in mineral oil) (140 mg) was added and the mixture was stirred for 15 min at 20° C. Bis(1,1-dimethylethyl) dicarbonate (0.442 ml) was added and the mixture was stirred under nitrogen at 20° C. for 18 h. The reaction was quenched with saturated ammonium chloride aq (15 ml), extracted with DCM (3×20 ml) and separated with a hydrophobic frit. The solvent was removed in vacuo and to the residue 1% LiCl (aq) (20 ml) and diethyl ether (20 ml) were added. The phases were separated and the aq phase was extracted with diethyl ether (2×15 ml). The combined organic phases were dried over magnesium sulphate and the solvent was removed in vacuo to give the title compound, 98 mg as an off-white solid.

reactant | 3-Methyl-1H-pyrazole-4-carboxylic acid | 200 mg | CC1=NNC=C1C(=O)O | C5H6N2O2
reactant | sodium hydride | 140 mg | [H-].[Na+]
reactant | Bis(1,1-dimethylethyl) dicarbonate | 0.442 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-{[(1,1-Dimethylethyl)oxy]carbonyl}-3-methyl-1H-pyrazole-4-carboxylic acid | CC(C)(C)OC(=O)N1N=C(C(=C1)C(=O)O)C | C10H14N2O4
